US06727249B2
(1R*,2R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol
(1R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2. 1]octan-2-one (Description 30; 6.9 g, 21.8 mmol) was taken up a mixture of methanol (100 ml) and THF (30 ml). To this suspension was added sodium borohydride (0.5 g, 13 mmol). The mixture was stirred for 30 minutes then concentrated in vacuo. The residue was partitioned between ethyl acetate and saturated sodium hydrogen carbonate. The organic layer was separated, dried (MgSO4), filtered and concentrated. Chromatography on silica gel eluting with 35 and 50% ethyl acetate/iso-hexanes afforded the title compound (4.8 g, 70%).

reactant | (1R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2. 1]octan-2-one | 21.8 mmol, 6.9 g | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)C#N)=O)C2=CC=CC=C2 | C21H20N2O
reactant | methanol | 100 ml | CO | CH4O
reactant | sodium borohydride | 13 mmol, 0.5 g | [BH4-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (1R*,2R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-ol | 4.8 g, 70% | C(C1=CC=CC=C1)N1[C@@]2([C@@H](CC[C@H]1[C@@H](C2)C#N)O)C2=CC=CC=C2 | C21H22N2O
